* Half Bridge Gate Driver
* Adjustable dead time using time constant tau
* (C) Marcos Alonso, 2021
.subckt Half-Bridge-Driver IN SD -DRB +DRB -DRA +DRA GND
V1 1V 0 1
C1 x1 IN {tau/1000}
C2 x2 IN {tau/1000}
R1 x1 0 1k
R2 1V x2 1k
A1 0 1V 0 x1 0 0 p1 0 AND
A2 0 1V 0 x2 0 p2 0 0 AND
A3 0 p1 0 p2 0 N004 shots 0 OR
A4 N001 0 shots N002 N005 N001 A 0 DFLOP
A5 N006 0 N004 N002 N005 N006 B 0 DFLOP
A6 0 A N003 B 0 0 out_a 0 AND
A7 0 A SD B 0 out_b 0 0 OR
A8 0 N007 0 init 0 0 N005 0 AND
A9 0 IN 0 init 0 0 N002 0 AND
A10 IN 0 0 0 0 N007 0 0 BUF
V3 init 0 PULSE(0 1 0 {tau/10} {tau/10} {5*tau})
E1 +DRA -DRA out_a 0 {Vcc}
E2 +DRB -DRB out_b 0 {Vcc}
A11 SD 0 0 0 0 N003 0 0 BUF
.ends Half-Bridge-Driver

